US08278441B2
(8aS)-8a-(2,4-Difluoro-5-(pyrimidin-5-yl)phenyl)-4,4a,5,7,8,8a-hexahydropyrano[4,3-d][1,3]thiazin-2-amine dihydrochloride
To a solution of tert-butyl 8a-(2,4-difluoro-5-(pyrimidin-5-yl)phenyl)-4,4a,5,7,8,8a-hexahydropyrano[4,3-d][1,3]thiazin-2-ylcarbamate (0.258 g, 0.558 mmol) in CH2Cl2 (8 mL) is added TFA (4 mL) and the reaction is stirred at room temperature for 1 hour. The solvent is removed under reduced pressure to afford a residue that is diluted with water and 1 N NaOH to adjust the pH to 12. The aqueous layer is extracted three times with EtOAc. The organic layer is dried over Na2SO4 and the crude product is purified by silica gel chromatography eluting with a linear gradient of 1% to 10% 7 N NH3/MeOH in CH2Cl2 to afford the title compound as the freebase (0.165 g, 68%). The freebase (0.162 g, 0.448 mmol) is dissolved in CH2Cl2 and treated with of 1 M HCl in Et2O (0.94 mL, 0.940 mmol) and the solvent is removed under reduced pressure to afford the title compound (0.208 g, 86%). ES/MS m/e: 363 (M+1).

reactant | tert-butyl 8a-(2,4-difluoro-5-(pyrimidin-5-yl)phenyl)-4,4a,5,7,8,8a-hexahydropyrano[4,3-d][1,3]thiazin-2-ylcarbamate | 0.558 mmol, 0.258 g | FC1=C(C=C(C(=C1)F)C=1C=NC=NC1)C12N=C(SCC1COCC2)NC(OC(C)(C)C)=O | C22H24F2N4O3S
reactant | TFA | 4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | NaOH | 1 N | [OH-].[Na+]
product | (8aS)-8a-(2,4-Difluoro-5-(pyrimidin-5-yl)phenyl)-4,4a,5,7,8,8a-hexahydropyrano[4,3-d][1,3]thiazin-2-amine dihydrochloride | Cl.Cl.FC1=C(C=C(C(=C1)F)C=1C=NC=NC1)[C@@]12N=C(SCC1COCC2)N | InChI=1S/C17H16F2N4OS.2ClH/c18-14-4-15(19)13(3-12(14)10-5-21-9-22-6-10)17-1-2-24-7-11(17)8-25-16(20)23-17;;/h3-6,9,11H,1-2,7-8H2,(H2,20,23);2*1H/t11?,17-;;/m0../s1
